US08119692B2
(S)-2-((R)-2-(4-fluorophenyl)-2-hydroxyethyl)hexanoic acid (Intermediate F2)
To the solution of (3S,5R)-3-butyl-5-(4-fluorophenyl)dihydrofuran-2(3H)-one (94.0 mg, 0.40 mmol) in 5 mL dioxane was added 5 mL aqueous 5% KOH at 25° C. After being stirred for 30 min at room temperature the reaction was quenched by the addition of 6 mL of 1M aqueous HCl. The mixture was extracted ethyl acetate (2×10 mL) and the combined organic layers were washed with brine (2×10 mL) before being concentrated under reduced pressure. The crude product was used directly in the next reaction without further purification.

reactant | (3S,5R)-3-butyl-5-(4-fluorophenyl)dihydrofuran-2(3H)-one | 0.40 mmol, 94.0 mg | C(CCC)[C@@H]1C(O[C@H](C1)C1=CC=C(C=C1)F)=O | C14H17FO2
reactant | KOH | [OH-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)-2-((R)-2-(4-fluorophenyl)-2-hydroxyethyl)hexanoic acid | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)O)CCCC)O | C14H19FO3
